US06087392
4-(4-Fluorophenoxy)Benzenesulfonyl Chloride
Chlorosulfonic acid (26 mL, 0.392 mole) was added dropwise to ice-cooled 4-fluorophenoxybenzene (36.9 grams, 0.196 mole) with mechanical stirring. When addition was complete, the mixture was stirred at room temperature for 4 hours. The mixture was then poured into ice water. The product. 4-4-fluorophenoxy)benzene-sulfonylchloride (18.6 grams, 33%) was collected by filtration and dried in the air.

reactant | Chlorosulfonic acid | 0.392 mole, 26 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-fluorophenoxybenzene | 0.196 mole, 36.9 grams | FC1=CC=C(OC2=CC=CC=C2)C=C1 | C12H9FO
product | 4-(4-Fluorophenoxy)Benzenesulfonyl Chloride | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C12H8ClFO3S
